US07524862B2
2.1c. 5-bromo-2-pyrrolidin-1-yl-1H-benzimidazole
A suspension of 1 g (3.6 mmol) of 2,5-dibromo-1H-benzimidazole and 0.85 mL (10.18 mmol) of pyrrolidine in 45 mL of acetonitrile is heated for 2 hours at 150° C. in the microwave. The reaction mixture is poured onto water and extracted with EtOAc. The organic phase is washed three times with water and dried over sodium sulfate. The solvent is distilled off, and the residue is stirred with DIPE and the solid is filtered off. Yield: 0.43 g (45% of theoretical); C11H12BrN3 (M=266.13); calc.: molpeak (M−H)—: 264/266; found: molpeak (M−H)−: 264/266; Rf value: 0.5 (silica gel, DCM/MeOH 10:1).

reactant | 2,5-dibromo-1H-benzimidazole | 3.6 mmol, 1 g | BrC1=NC2=C(N1)C=CC(=C2)Br | C7H4Br2N2
reactant | pyrrolidine | 10.18 mmol, 0.85 mL | N1CCCC1 | C4H9N
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
product | 5-bromo-2-pyrrolidin-1-yl-1H-benzimidazole | BrC1=CC2=C(NC(=N2)N2CCCC2)C=C1 | C11H12BrN3
